US05643908
4-(S)-Isopropyl-3-[2-(R)-tert-butoxycarbonylmethyl-1-oxo-4-phenylbutyl]-2-oxazolidinone
Following the procedure described in Referential Example 4, but using 4-(S)-isopropyl-3-(1-oxo-4-phenylbutyl)-2-oxazolidinone (8.83 g), prepared in Referential Example 91, and tert-butyl bromoacetate (25.0 ml), there was obtained the desired compound (7.35 g).

reactant | 4-(S)-isopropyl-3-(1-oxo-4-phenylbutyl)-2-oxazolidinone | 8.83 g | C(C)(C)[C@@H]1N(C(OC1)=O)C(CCCC1=CC=CC=C1)=O | C16H21NO3
reactant | tert-butyl bromoacetate | 25.0 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
product | 4-(S)-Isopropyl-3-[2-(R)-tert-butoxycarbonylmethyl-1-oxo-4-phenylbutyl]-2-oxazolidinone | 7.35 g | C(C)(C)[C@@H]1N(C(OC1)=O)C([C@H](CCC1=CC=CC=C1)CC(=O)OC(C)(C)C)=O | C22H31NO5
